US07781454B2
Step 3: 1-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methanamine
To a solution of 3-(3-bromo-5-chlorophenoxy)-4-methylpyridine-2-carbonitrile (570 mg, 1.762 mmol) in tetrahydrofuran (7 mL) cooled over dry ice/acetone bath was added 2M LAH in THF (1.233 mL, 2.466 mmol) and the mixture stirred over dry ice-acetone bath for 40 minutes. After this time, the dry ice-acetone bath was replaced with a wet ice bath and mixture stirred for 5 minutes. The mixture was then treated with water (94 μL), 1.0N NaOH (94 μL) and more water (280 μL), and then stirred at room temperature for 30 minutes. After this time, the mixture was diluted with THF (7 mL) and filtered through celite. The solids were washed with additional THF (10 mL). The filtrates were combined, the solvent removed under vacuum, and the residue purified using Waters PrepPak and eluting with a gradient of 5-95% ACN/H2O with 0.1% TFA. The desired fractions were combined and the solvent removed in vacuo to give the title compound. LRMS (M+1)=328.9.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-methylpyridine-2-carbonitrile | 1.762 mmol, 570 mg | BrC=1C=C(OC=2C(=NC=CC2C)C#N)C=C(C1)Cl | C13H8BrClN2O
reactant | LAH | 2M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | NaOH | 1.0N, 94 μL | [OH-].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2.466 mmol, 1.233 mL | C1CCOC1 | C4H8O
solvent | water | 280 μL | O | H2O
solvent | water | 94 μL | O | H2O
product | 1-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methanamine | BrC=1C=C(OC=2C(=NC=CC2C)CN)C=C(C1)Cl | C13H12BrClN2O
